US05665777
A suspension of 3-(4-iodophenoxy)propanoic acid (1.00 g, 3.42 mmol) in thionyl chloride (6.0 mL) was heated at reflux for 30 minutes. The reaction mixture was cooled to ambient temperature, diluted with ethyl ether, and concentrated in vacuo. The residue was azeotroped three times with ethyl ether, dried under high vacuum, and taken up in dichloromethane (7 mL) under N2. To the solution was added a solution in dichloromethane of O-tert-butylhydroxylamine (8.60 mmol; prepared by dissolving O-tert-butylhydroxylamine hydrochloride in water, making the free base with aqueous 10% Na2CO3, and extracting the solution with dichloromethane, and drying the organic solution over MgSO4), and the reaction mixture was stirred for two hours. The reaction mixture was washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated in vacuo to give a yellow oil which crystallized on standing to give O-tert-butyl 3-(4-iodophenoxy)propanohydroxamic acid (1.22 g, 98%).

reactant | 3-(4-iodophenoxy)propanoic acid | 3.42 mmol, 1.00 g | IC1=CC=C(OCCC(=O)O)C=C1 | C9H9IO3
reactant | O-tert-butylhydroxylamine hydrochloride | Cl.C(C)(C)(C)ON
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | thionyl chloride | 6.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | O-tert-butyl 3-(4-iodophenoxy)propanohydroxamic acid | 1.22 g, 98% | C(C)(C)(C)ONC(CCOC1=CC=C(C=C1)I)=O | C13H18INO3
